US04065620
3-(2'-ethoxycarbonylvinyl)-7-(2'-hydroxy-2'-phenylacetamido)-3-cephem-4-carboxylic acid
Following the general procedure of Example 9, a salt of tert-butyl 7-amino-3-(2'-ethoxycarbonylvinyl)-3-cephem-4-carboxylate was acylated with the acid chloride derivative of 2-hydroxy-2-phenylacetic acid (mandelic acid), and after ester group removal the title compound was obtained as product.

reactant | tert-butyl 7-amino-3-(2'-ethoxycarbonylvinyl)-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OCC)C(=O)OC(C)(C)C)C1=O | C16H22N2O5S
reactant | 2-hydroxy-2-phenylacetic acid | OC(C(=O)O)C1=CC=CC=C1 | C8H8O3
product | 3-(2'-ethoxycarbonylvinyl)-7-(2'-hydroxy-2'-phenylacetamido)-3-cephem-4-carboxylic acid | C(C)OC(=O)C=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C2=CC=CC=C2)O)=O)=O | C20H20N2O7S
